US05883092
Synthesis of methyl 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionate
Methanol (0.5 ml) and concentrated sulfuric acid (two droplets) were added to 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionic acid (50 mg), and the mixture was stirred for 4 hours at room temperature, then poured into water, and extracted with ethyl acetate. The extract was washed successively with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel preparative thin layer chromatography (chloroform-methanol (30:1)), to thereby obtain 46 mg (yield: 90%) of the title compound as a colorless oil.

reactant | Methanol | 0.5 ml | CO | CH4O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionic acid | 50 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)N1CCOCC1)OCCC(=O)O)OC1=C(C=CC=C1)OC | C28H34N4O8S
solvent | water | O | H2O
product | methyl 3-[6-(4-t-butylphenylsulfonylamino)-5-(2-methoxyphenoxy)-2-morpholino-4-pyrimidinyloxy]propionate | 46 mg, yield: 90% | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NC(=N1)N1CCOCC1)OCCC(=O)OC)OC1=C(C=CC=C1)OC | C29H36N4O8S
